US04276304
A solution of 133 mg of α,α-dimethyl-2,3,4-trimethoxyphenethylamine in 1.5 ml of dimethylsulfoxide is added to 111 mg of 2-methoxyphenylglyoxal hydrate, and the mixture is stirred at 20° C. for one hour, whereby a solution of α-(α,α-dimethyl-2,3,4-trimethoxyphenethylimino)-2-methoxyacetophenone in dimethylsulfoxide is obtained.

reactant | α,α-dimethyl-2,3,4-trimethoxyphenethylamine | 133 mg | CC(CC1=C(C(=C(C=C1)OC)OC)OC)(C)N | C13H21NO3
reactant | 2-methoxyphenylglyoxal hydrate | 111 mg | O.COC1=C(C=CC=C1)C(=O)C=O
reactant | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-2,3,4-trimethoxyphenethylimino)-2-methoxyacetophenone | CC(CC1=C(C(=C(C=C1)OC)OC)OC)(C)N=C(C(=O)C1=CC=CC=C1)OC | C22H27NO5
